* source PULSESENSOR1
X_U1         N02517 N00443 N01662 N01899 N00767 uA741
X_U2         N02493 N00464 N01662 N01899 N00816 uA741
X_U3         N00911 N00977 N01662 N01899 VOUT uA741
R_R1         N00977 VOUT  1k TC=0,0 
R_R2         N00443 N00767  2K TC=0,0 
R_R3         N00464 N00816  2K TC=0,0 
R_R4         N00464 N00443  500 TC=0,0 
R_R5         N00767 N00977  1k TC=0,0 
R_R6         N00816 N00911  1k TC=0,0 
R_R7         0 N00911  1k TC=0,0 
V_V1         N01600 N01899 3Vdc
V_V2         N01662 N01600 3Vdc
V_V3         N03594 0  
+SIN 0 85m 50 0 0 0
V_V4         N02527 0  
+SIN 0 2m 50 0 0 180
R_R8         N03594 N02517  1K TC=0,0 
R_R9         N02527 N02493  1K TC=0,0 
D_D1         0 N02517 D1N4002 
D_D2         N02517 0 D1N4002 
D_D3         N02493 0 D1N4002 
D_D4         0 N02493 D1N4002 
